US04455422
1.5 Grams of 6-[4-(4-phenyl-1-piperazinyl)-1-butenyl]-carbostyril and 0.3 g of 10%-palladium were dispersed in 120 ml of ethanol and catalytically reduced for 6 hours. The reaction mixture was filtered and the mother liquor was concentrated under a reduced pressure and the residue thus obtained was recrystallized from ethanol and 0.8 g of 6-[4-(4-phenyl-1-piperazinyl)butyl]carbostyril was obtained in colorless needle-like crystals. Melting point: 159°-162° C.

reactant | 6-[4-(4-phenyl-1-piperazinyl)-1-butenyl]-carbostyril | C1(=CC=CC=C1)N1CCN(CC1)CCC=CC=1C=C2C=CC(NC2=CC1)=O | C23H25N3O
solvent | ethanol | 120 ml | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | 6-[4-(4-phenyl-1-piperazinyl)butyl]carbostyril | 0.8 g | C1(=CC=CC=C1)N1CCN(CC1)CCCCC=1C=C2C=CC(NC2=CC1)=O | C23H27N3O
